US04228174
(i) N,O-bis-(benzyloxycarbonyl)-3-aminopropanol
Benzyl chloroformate (47 ml.) was added dropwise to a stirred solution of 3-aminopropanol (11.4 ml) in pyridine (150 ml) at 0°. The mixture was then stirred at room temperature overnight. This was poured into ice-water (300 ml.) and extracted with ethyl acetate (3×200 ml). The organic extract was washed with hydrochloric acid (5m, 3×400 ml), dried with anhydrous sodium carbonate-magnesium sulphate and evaporated to give the desired compound as an oil contaminated with a little dimethylcarbonate (30.23 g).

reactant | Benzyl chloroformate | 47 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 3-aminopropanol | 11.4 ml | NCCCO | C3H9NO
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | N,O-bis-(benzyloxycarbonyl)-3-aminopropanol | C(C1=CC=CC=C1)OC(=O)NCCCOC(=O)OCC1=CC=CC=C1 | C19H21NO5
